US08703808B2
(Z)-3-[2-cyano-2-(5-methoxy-1H-indol-3-yl)-vinyl]-benzamide
To a solution of sodium isopropanolate [prepared from sodium (30 mg, 1.3 mmol, 1.2 eq.) and isopropanol (8 mL)] were added, under an argon atmosphere, (5-methoxy-1H-indol-3-yl)-acetonitrile (200 mg, 1.1 mmol, 1.0 eq.) and, after 10 minutes stirring, 3-formyl-benzonitrile (200 mg, 1.5 mmol, 1.4 eq.). The reaction apparatus was protected from light and the mixture stirred heated at reflux for 4 hours. The reaction was allowed to cool to room temperature and then, the solvent was removed under reduced pressure, and the crude purified by silica gel flash-column chromatography (eluent: CH2Cl2/MeOH, 100:0 à 97:3). The residue was triturated with ethanol and diethyl ether to the compound (32) as a yellow powder (80 mg, 24%). TLC: Rf=0.34 (CH2Cl2 96/MeOH 4); mp: 234° C.; IR νmax (cm−1): 1651 (νC═O), 2215 (νCN), 3172 (νN—H amide), 3326 (νN—H indole); 1H NMR (DMSO, 300 MHz) δ (ppm): 3.89 (3H, s, 5′-methoxy), 6.97 (1H, m, H6′), 7.48 (2H, s, H7′ and amide H), 7.53 (1H, s, H4′), 7.65 (1H, m, H5″), 7.83 (2H, s, H3 and H2′), 7.95 (1H, m, H4″), 8.12 (2H, m, H6″ and amide H), 8.39 (1H, m, H2″), 11.68 (1H, s, indolic H); 13C NMR (DMSO, 75.5 MHz) δ (ppm): 55.6 (5′-methoxy), 101.8 (C4′), 107.0 and 110.3 (C2 and C3′), 112.3 (C6′), 113.2 (C7′), 118.3 (C1), 124.1 (C3a′), 127.3 (C2′), 127.9 (C4″), 128.3 (C2″), 128.7 (C5″), 130.5 (C6″), 132.3 (C7a′), 134.9 (C1″ and C3″), 135.5 (C3), 154.5 (C5′), 167.7 (amide C); ESI-MS: m/z 340.1 ([M+Na]+), 316.1 ([M−H]−); HRESI-MS: m/z 340.1067 (calcd for C19H15N3O2Na), m/z 316.1117 (calcd for C19H14N3O2, 316.1086).

reactant | sodium isopropanolate | 1.3 mmol, 8 mL, 30 mg, 1.2 eq. | C(C)(C)[O-].[Na+]
reactant | (5-methoxy-1H-indol-3-yl)-acetonitrile | 1.1 mmol, 200 mg, 1.0 eq. | COC=1C=C2C(=CNC2=CC1)CC#N | C11H10N2O
reactant | 3-formyl-benzonitrile | 1.5 mmol, 200 mg, 1.4 eq. | C(=O)C=1C=C(C#N)C=CC1 | C8H5NO
product | (Z)-3-[2-cyano-2-(5-methoxy-1H-indol-3-yl)-vinyl]-benzamide | C(#N)\C(=C/C=1C=C(C(=O)N)C=CC1)\C1=CNC2=CC=C(C=C12)OC | C19H15N3O2
